US08405069B2
j. perfluorobenzylphosphonic acid
Diethyl perfluorobenzylphosphonate (1.90 g, 5.97 mmol) was dissolved in dry CH2Cl2 (4 ml), stirred and TMSBr (3.66 g, 23.88 mmol) was added. The mixture was stirred for 2 hours at room temperature after which volatiles were removed on a rotary evaporator to give a thick yellow oil. MeOH (5 ml) was added and the suspension stirred for 90 minutes, after which the product was collected by filtration yielding white crystals (1.20 g, 77%).

reactant | Diethyl perfluorobenzylphosphonate | 5.97 mmol, 1.90 g | FC(C1=C(C(=C(C(=C1F)F)F)F)F)(P(OCC)(OCC)=O)F | C11H10F7O3P
reactant | TMSBr | 23.88 mmol, 3.66 g | C[Si](C)(C)Br | C3H9BrSi
reactant | MeOH | 5 ml | CO | CH4O
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
product | perfluorobenzylphosphonic acid | 1.20 g, 77% | FC(C1=C(C(=C(C(=C1F)F)F)F)F)(P(O)(O)=O)F | C7H2F7O3P
